US07820704B2
[2-(4-Isopropyl-phenyl)-pyrimidin-4-yl]-thiophen-2-ylmethyl-amine (142 mg) was obtained by following general procedure Q1 from (2-chloro-pyrimidin-4-yl)-thiophen-2-ylmethyl-amine (130 mg, 0.58 mmol) and 4-isopropylphenylboronic acid (140 mg, 0.86 mmol). LCMS m/z: 311 (M+1)+. [4-(4-Isopropyl-phenyl)-pyrimidin-4-yl]-thiophen-2-ylmethyl-amine was obtained by following general procedure Q1 from (4-Chloro-pyrimidin-2-yl)-thiophen-2-ylmethyl-amine and 4-isopropylphenylboronic acid.

reactant | (2-chloro-pyrimidin-4-yl)-thiophen-2-ylmethyl-amine | 0.58 mmol, 130 mg | ClC1=NC=CC(=N1)NCC=1SC=CC1 | C9H8ClN3S
reactant | 4-isopropylphenylboronic acid | 0.86 mmol, 140 mg | C(C)(C)C1=CC=C(C=C1)B(O)O | C9H13BO2
product | [4-(4-Isopropyl-phenyl)-pyrimidin-4-yl]-thiophen-2-ylmethyl-amine | C(C)(C)C1=CC=C(C=C1)C1(NC=NC=C1)NCC=1SC=CC1 | C18H21N3S
